US07157577B2
To a suspension of 3-[3-(4-methyl-piperazin-1-yl)-3-oxo-propyl]-1,5,6,7-tetrahydro-indol-4-one (5 g, 17 mmol) in 300 mL of tetrahydrofuran was added dropwise a solution of lithium aluminum hydride in tetrahydrofuran (2.6 g, 68 mmol). The mixture was heated to reflux overnight. To the cooled reaction was sequentially added 2.6 mL each of water, 15% sodium hydroxide and water. The reaction was stirred at room temperature for 30 minutes and the insolubles removed by vacuum filtration. The filtrate was concentrated to give 4.5 g (100% yield) of 3-[3-(4-methyl-piperazin-1-yl)-propyl]-4,5,6,7-tetrahydro-1H-indole. 1H-NMR (360 MHz, dimethylsulfoxide-d6) δ 9.79 (br s, 1H, NH), 6.22 (d, 1H), 2.44 (m, 2H, CH2), 2.21–2.30 (m, 14H, 7×CH2), 2.12 (s, 3H, CH3), 1.65 (m, 4H, 2×CH2), 1.53 (m, 2H, CH2). MS m/z 261 [M+].

reactant | 3-[3-(4-methyl-piperazin-1-yl)-3-oxo-propyl]-1,5,6,7-tetrahydro-indol-4-one | 17 mmol, 5 g | CN1CCN(CC1)C(CCC1=CNC=2CCCC(C12)=O)=O | C16H23N3O2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 2.6 mL | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 68 mmol, 2.6 g | O1CCCC1 | C4H8O
product | 3-[3-(4-methyl-piperazin-1-yl)-propyl]-4,5,6,7-tetrahydro-1H-indole | 4.5 g, 100% yield | CN1CCN(CC1)CCCC1=CNC=2CCCCC12 | C16H27N3
